US04426381
To 1.7 ml (0.01896mol) of trifluoromethane sulfonic acid were added 2.06 mol (0.0189 mol) of anisole and 8.8 ml (0.11378 mol) of trifluoroacetic acid and the mixture was cooled at 0° C. in an ice-sodium chloride bath. With stirring, 2.0 grams (0.0047 mol) of ethyl 7-chloro-6-fluoro-2-(4-methoxybenzylthio)-4-oxo-dihydroquinoline-3-carboxylate was added thereto and the mixture was stirred for about twenty minutes. Then trifluoroacetic acid and anisole were evaporated therefrom under reduced pressure and 15 grams of ice water was added to the residue. Yellow crystals appeared immediately. The crystals were collected by filtration, washed with water, dried, and recrystallized from dimethyl formamide and ether to give ethyl 7-chloro-6-fluoro-2-mercapto-4-oxo-1,4-dihydroquinoline-3-carboxylate. Yellow crystals. Yield 1.4 grams (98 percent). Melting point 221° to 223° C. (decomposition). Elementary analysis calculated as C12H19ClFNO3S: C 47.-7, H 3.01, N 4.64; Found: C 47.81, H 3.25, N 4.81.

reactant | trifluoromethane sulfonic acid | 0.01896mol, 1.7 ml | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | anisole | 2.06 mol | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 0.11378 mol, 8.8 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | ethyl 7-chloro-6-fluoro-2-(4-methoxybenzylthio)-4-oxo-dihydroquinoline-3-carboxylate | 0.0047 mol, 2.0 grams | ClC1=C(C=C2C(C(C(NC2=C1)SCC1=CC=C(C=C1)OC)C(=O)OCC)=O)F | C20H19ClFNO4S
product | ethyl 7-chloro-6-fluoro-2-mercapto-4-oxo-1,4-dihydroquinoline-3-carboxylate | ClC1=C(C=C2C(C(=C(NC2=C1)S)C(=O)OCC)=O)F | C12H9ClFNO3S
